US06528525B1
(i) Ethyl 3-[4-(2-aminoethoxy)phenyl]-2-(4-isopropylphenoxy)propionate
In a similar manner to that described in Reference example 1(d), a reaction was carried out using ethyl 3-[4-(2-azidoethoxy)phenyl]-2-(4-isopropylphenoxy)propionate (15.8 g), which is the product of Reference example 5(h), and palladium on carbon (5%, 1.60 g) and the reaction mixture was treated to afford the title compound (13.5 g) as a syrup.

reactant | ethyl 3-[4-(2-azidoethoxy)phenyl]-2-(4-isopropylphenoxy)propionate | 15.8 g | N(=[N+]=[N-])CCOC1=CC=C(C=C1)CC(C(=O)OCC)OC1=CC=C(C=C1)C(C)C | C22H27N3O4
catalyst | palladium on carbon | 1.60 g | [Pd] | Pd
product | Ethyl 3-[4-(2-aminoethoxy)phenyl]-2-(4-isopropylphenoxy)propionate | 13.5 g | NCCOC1=CC=C(C=C1)CC(C(=O)OCC)OC1=CC=C(C=C1)C(C)C | C22H29NO4
